US04786649
To ethyl 6,7-difluoro-1-(2-thienyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.6 g) are added 90% acetic acid (3 ml) and conc. hydrochloric acid (0.8 ml), and the mixture is refluxed for one hour. After allowing to cool, the precipitated crystals are separated by filtration, and washed with water, ethanol and ether in this order to give 6,7-difluoro-1-(2-thienyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.4 g) as colorless crystals, m.p. 245°-246° C.

reactant | ethyl 6,7-difluoro-1-(2-thienyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.6 g | FC=1C=C2C(C(=CN(C2=CC1F)C=1SC=CC1)C(=O)OCC)=O | C16H11F2NO3S
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 6,7-difluoro-1-(2-thienyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.4 g | FC=1C=C2C(C(=CN(C2=CC1F)C=1SC=CC1)C(=O)O)=O | C14H7F2NO3S
